US06331640B1
N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-(3-cyanobenzoyl)amino-L-alanine;
N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-(3-hydroxybenzoyl)amino-L-alanine; N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-(2-methylbenzoyl)amino-L-alanine; N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-(3-methylbenzoyl)amino-L-alanine; N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-(4-methylbenzoyl)amino-L-alanine; N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-[3-(trifluoromethyl)benzoylaamino-L-alanine),

reactant | N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-(3-hydroxybenzoyl)amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(C2=CC(=CC=C2)O)=O)C(=O)O)C=CC(=C1)C(=O)NCC1=CC(=CC=C1)O | C25H22ClN3O7
reactant | N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-(2-methylbenzoyl)amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(C2=C(C=CC=C2)C)=O)C(=O)O)C=CC(=C1)C(=O)NCC1=CC(=CC=C1)O | C26H24ClN3O6
reactant | N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-(3-methylbenzoyl)amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(C2=CC(=CC=C2)C)=O)C(=O)O)C=CC(=C1)C(=O)NCC1=CC(=CC=C1)O | C26H24ClN3O6
reactant | N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-(4-methylbenzoyl)amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(C2=CC=C(C=C2)C)=O)C(=O)O)C=CC(=C1)C(=O)NCC1=CC(=CC=C1)O | C26H24ClN3O6
product | N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]benzoyl]-3-(3-cyanobenzoyl)amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(C2=CC(=CC=C2)C#N)=O)C(=O)O)C=CC(=C1)C(=O)NCC1=CC(=CC=C1)O | C26H21ClN4O6
